US08377942B2
CuI (88 mg) is added to a solution of 2-azidomethyl-pyrimidine (62 mg), N,N-diisopropylethylamine (DIPEA, 2.0 ml) and 5-(3,5-dichloro-phenyl)-3-(4-ethynyl-naphthalen-1-yl)-5-trifluoromethyl-4,5-dihydro-isoxazole (100 mg) in DMF (1.0 ml). After 16 hours at room temperature, the reaction is quenched with a saturated solution of NaHCO3 and extracted with dichloromethane. The combined organic phases are dried over MgSO4 and concentrated in vacuo. The crude product is purified on a semi-preparative HPLC to yield 2-(4-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-naphthalen-1-yl}-[1,2,3]triazol-1-ylmethyl)-pyridine as a beige foam. (compound 1.27, Table 1).

reactant | 2-azidomethyl-pyrimidine | 62 mg | N(=[N+]=[N-])CC1=NC=CC=N1 | C5H5N5
reactant | N,N-diisopropylethylamine | 2.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-(3,5-dichloro-phenyl)-3-(4-ethynyl-naphthalen-1-yl)-5-trifluoromethyl-4,5-dihydro-isoxazole | 100 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C#C)C(F)(F)F | C22H12Cl2F3NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 88 mg | [Cu]I
product | 2-(4-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-naphthalen-1-yl}-[1,2,3]triazol-1-ylmethyl)-pyridine | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C=1N=NN(C1)CC1=NC=CC=C1)C(F)(F)F | C28H18Cl2F3N5O
